US08008327B2
A mixture of 1H-indazole-4-carboxylic acid methyl ester (5.0 g, 28 mmol), copper(I) iodide (5.7 g, 3.0 mmol), potassium carbonate (4.15 g, 30.0 mmol) and 4-fluoroiodobenzene (3.47 g, 30.0 mmol) was charged in a sealed tube at room temperature. The tube was evacuated, back-filled with argon and dimethylformamide (20 mL) was added followed by rac-trans-N,N′-dimethylcyclohexane-1,2-diamine (0.93 g, 6.5 mmol). The solution was stirred at 120° C. for 3 hours. The solution was cooled to room temperature and diluted with water (50 mL) and ethyl acetate (80 mL). The organic layer was separated, washed with brine (30 mL), and dried over sodium sulfate. The crude product was filtered, concentrated and purified by silica gel chromatography eluting with a gradient of 0-30% ethyl acetate in hexanes to afford 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester.

reactant | 1H-indazole-4-carboxylic acid methyl ester | 28 mmol, 5.0 g | COC(=O)C=1C=2C=NNC2C=CC1 | C9H8N2O2
reactant | potassium carbonate | 30.0 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoroiodobenzene | 30.0 mmol, 3.47 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | rac-trans-N,N′-dimethylcyclohexane-1,2-diamine | 6.5 mmol, 0.93 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 3.0 mmol, 5.7 g | [Cu]I
product | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C15H11FN2O2
